US04186149
PREPARATION OF 4-BUTYL-3,4,5-TRIMETHYL-2,5-CYCLOHEXADIEN-1-ONE
A solution of 7 g of 4-butyl-4-hydroxy-3,5,5-trimethyl-2-cyclohexen-1-one (prepared by the procedure of Example IV) in hexane is stirred overnight with 10 ml of a 5% solution of HCl. The hexane is separated and evaporated, and the residue is distilled through a micro column using triethanolamine as a still base. The product obtained is 4-butyl-3,4,5-trimethyl-(2,5-cyclohexadien-1-one, boiling point 112°-119° C. at 0.1 mm Hg. The compound exhibits the following spectral characteristics:

reactant | 4-butyl-4-hydroxy-3,5,5-trimethyl-2-cyclohexen-1-one | 7 g | C(CCC)C1(C(=CC(CC1(C)C)=O)C)O | C13H22O2
reactant | HCl | Cl | ClH
reactant | 2,5-cyclohexadien-1-one | C1(C=CCC=C1)=O | C6H6O
solvent | hexane | CCCCCC | C6H14
product | 4-BUTYL-3,4,5-TRIMETHYL-2,5-CYCLOHEXADIEN-1-ONE | C(CCC)C1(C(=CC(C=C1C)=O)C)C | C13H20O
